US07538112B2
Step 1: 10-(Benzyloxy)-2-(4-fluorobenzyl)-4-methoxy-8-methyl-7,8-dihydropyrazino-[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A suspension of 10-(benzyloxy)-2-(4-fluorobenzyl)-4-hydroxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (0.50 g, 1.11 mmol) in mixture of dichloromethane (20 mL) and methanol (1 mL) at room temperature was treated with a solution of (trimethylsilyl)diazomethane in hexane. After stirring for 30 minutes, the resultant homogeneous solution was treated with a few drops of acetic acid, and the mixture was concentrated under vacuum. The residue was partitioned between chloroform and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subject to column chromatography on silica gel eluting with 2% methanol in chloroform. Collection and concentration of the faster eluting major product provide the titled compound.

reactant | 10-(benzyloxy)-2-(4-fluorobenzyl)-4-hydroxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 1.11 mmol, 0.50 g | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NN(C(C31)=O)CC3=CC=C(C=C3)F)O)CCN(C2=O)C | C24H21FN4O4
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | methanol | 1 mL | CO | CH4O
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | hexane | CCCCCC | C6H14
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 10-(Benzyloxy)-2-(4-fluorobenzyl)-4-methoxy-8-methyl-7,8-dihydropyrazino-[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NN(C(C31)=O)CC3=CC=C(C=C3)F)OC)CCN(C2=O)C | C25H23FN4O4
